US05606054
Step D: 8-Oximino-5,6,7,8-tetrahydroquinoline
A solution of 2.22 g of 8-oxo-5,6,7,8-tetrahydroquinoline, 2.1 g of hydroxylamine hydrochloride, and 4.1 g of sodium acetate in 15 mL of 3:1 ethanol-water was heated at 70° C. for 1 h. The reaction mixture was then diluted with water and extracted with dichloromethane. Evaporation of the extracts gave 1.95 g of product which was pure enough by NMR to be used in the next step.

reactant | 8-oxo-5,6,7,8-tetrahydroquinoline | 2.22 g | O=C1CCCC=2C=CC=NC12 | C9H9NO
reactant | hydroxylamine hydrochloride | 2.1 g | Cl.NO
reactant | sodium acetate | 4.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol water | 15 mL | C(C)O.O
solvent | water | O | H2O
product | 8-Oximino-5,6,7,8-tetrahydroquinoline | 1.95 g | N(O)=C1CCCC=2C=CC=NC12 | C9H10N2O
